US09388189B2
a) N-(4-Bromo-1H-indol-6-yl)methanesulfonamide
4-Bromo-1H-indol-6-amine (200 mg, 0.81 mmol) was treated with methanesulfonyl chloride (66 μl, 0.85 mmol) according to the method described in Preparation 15b.

reactant | 4-Bromo-1H-indol-6-amine | 0.81 mmol, 200 mg | BrC1=C2C=CNC2=CC(=C1)N | C8H7BrN2
reactant | methanesulfonyl chloride | 0.85 mmol, 66 μl | CS(=O)(=O)Cl | CH3ClO2S
product | N-(4-Bromo-1H-indol-6-yl)methanesulfonamide | BrC1=C2C=CNC2=CC(=C1)NS(=O)(=O)C | C9H9BrN2O2S
